2106-05-13 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2106-5-12**] 07:51 PM
 EKG - At [**2106-5-12**] 11:45 PM
   Patient developed CP associated with wheezing at ~8pm. EKG with
   anterior TWI and ST depression ~1 mm in V3-v4. Pain resolved with nebs,
   improved breathing. Second episode of CP less severe at 11:00 pm. TWI
   in V2-V4 still present, but ST depressions slightly improved. 3rd set
   still trending up, but CKs seem plateauing. CP again at ~1:00 am, given
   morphine for pain. Pain improved with talking with nurse, who felt it
   may be partly anxiety related.
   - Hypotensive to SBPs 60s-70s on and off throughout evening. Received 2
   boluses of 500 cc IVF. UOP somewhat poor at 25-40/hr, increasing this
   am to 40-120 cc/hr.
   Allergies:
   Penicillins Unknown;
   Nsaids Nausea/Vomiting
   Percocet (Oxycodone Hcl /Acetaminophen) itching;
   Verapamil Drowsiness/Fati
   Neurontin (Oral) ? peripheral ed
   Ultram (Oral) (Tramadol Hcl) n/v
   Mysoline (Oral) (Primidone) falls;
   [**Doctor First Name **] (Oral) Confusion/Delir
   Codeine Unknown
   Darvon (Oral) (Propoxyphene Hcl) Unk
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-5-13**] 01:08 AM
   Vancomycin - [**2106-5-13**] 01:30 AM
   Metronidazole - [**2106-5-13**] 06:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Morphine Sulfate - [**2106-5-13**] 01:08 AM
   Pantoprazole (Protonix) - [**2106-5-13**] 02:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-13**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.2
   HR: 55 (52 - 69) bpm
   BP: 106/47(61) {69/30(41) - 112/62(69)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  3,288 mL
                                                                    721 mL
   PO:
             TF:
   IVF:
                                                                  1,538 mL
                                                                    721 mL
   Blood products:
   Total out:
                                                                    515 mL
                                                                    505 mL
   Urine:
                                                                    315 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,773 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: DPs palpable
   Skin:  warm extremities
   Neurologic: Alert, oriented
   Ab: soft, non-distended, mildly tender to palpation in epigastrium and
   diffusely
   CV: RRR with irregular beats
   Pulm: generally CTAB with minimal crackles at left base, some scattered
   expiratory wheezing
   Labs / Radiology
   147 K/uL
   8.8 g/dL
   164 mg/dL
   2.2 mg/dL
   19 mEq/L
   3.1 mEq/L
   49 mg/dL
   110 mEq/L
   141 mEq/L
   27.6 %
   7.2 K/uL
        [image002.jpg]
                             [**2106-5-12**]  05:59 PM
                             [**2106-5-12**]  08:00 PM
                             [**2106-5-13**]  12:45 AM
                             [**2106-5-13**]  05:43 AM
   WBC
   8.7
   7.2
   Hct
   29.3
   27.6
   Plt
   145
   147
   Cr
   2.7
   2.2
   TropT
   0.86
   1.16
   1.26
   Glucose
   164
   Other labs: PT / PTT / INR:27.2/33.3/2.6, CK / CKMB /
   Troponin-T:408/36/1.26, ALT / AST:1530/1722, Alk Phos / T Bili:75/0.3,
   Lactic Acid:2.3 mmol/L, LDH:1326 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.9 mg/dL. Vanc trough at 5:43am 23.2.
   Micro: urine cx pending X2; MRSA screen pending, blood culture pending
   CXR: [**5-12**] final read No evidence of pneumonia or pulmonary edema.
   Probable right basilar atelectasis.
   CXR [**5-13**]: pending
   EKG:
   CT ab/pelvis, Final read: 1. Mild thickening along the transverse colon
   with associated stranding in  the region of the hepatic flexure may
   represent colitis. Etiology could be  inflammatory, infectious, or
   ischemic.  2. Post-cholecystectomy with increasing diameter of the
   common bile duct  compared with prior exam. Recommend clinical
   correlation and if needed  ultrasound may be obtained to further
   assess.  3. Moderate fecal loading of the rectum.   4. Fat and
   fluid-containing periumbilical hernia, stable.
   Assessment and Plan
   81 yo female with history of CHF (EF 30%), Afib on coumadin, s/p CABG
   presents with dyspnea and CP, found to be hypotensive. Cardioverted for
   ?aflutter, developed v-tach, defibrillated, returned to NSR. CTAb
   showed equivocal colitis. Admitted to MICU for hypotension.
   .
   # Shock. Likely cardiogenic in setting of tachyarrhythmia but
   complicated by likely dehydration in setting of anorexia and nausea,
   together with recent rapid ventricular rates, and baseline impaired
   cardiac function (given mild pulmonary vascular congestion on CXR,
   chronic CHF). Baseline bp appears low (syst in 80s at clinic).
   Differential also includes sepsis, especially in setting of mild
   leukocytosis and colitis seen on CT, though afebrile and WBC to
   baseline with fluids.
   - Vasodilatory source: colitis
        - treat empirically with vanco/flagyl/ceftriaxone; follow exam
        - appreciate surgery recs
        - trend lactate
        - check C. Diff given recent history of diarrhea though now with
   constipation
        - follow blood, urine cultures
   - Hypovolemic source: dehydration (pt appears generally volume
   depleted)
        - fluid boluses to maintain UOP and MAP goal of >55 then to
   maintenance fluids when 50 cc/hr UOP achieved
   - Cardiogenic (baseline CHF with low EF, together with superimposed
   arrhythmia; however CXR not concerning for congestion)
        - check TTE
   .
   # NSTEMI. Elevated troponins, CK-MB, anterior TWI on EKG. In setting of
   acute illness, tachycardia
   - Cycle enzymes
   - Manage CAD as below
   - Continue atorvastatin, ASA; discontinue atorvastatin if LFTs continue
   to be abnormal
   - Repeat ECG
   - Anticoagulation if continued enzyme rise (start heparin now that INR
   within range)
   - Morphine for pain/dypsnea
   .
   # Tachy-arrhythmia. Pt with possible a-flutter and RVR initially,
   developed VTach after synchronized cardioversion, returned to NSR with
   defib. Cardiology and EP saw pt in ED.
   - monitor on telemetry
   - Cards F/U today
   - Continue amiodarone gtt, move to PO amiodarone if long term control
   needed
   - Maintain K > 4 (watch renal function though), Mg > 2
   - If persistently hypotensive despite fluid resuscitation, will
   discontinue amiodarone and return to lopressor
   - hold coumadin for now
   .
   # Subacute renal failure. Creatinine 3.2, baseline 1.1 but was elevated
   [**4-29**] to 3.3 (pt refused to seek medical attention at time). Likely
   prerenal in setting of dehydration/chronic CHF with intravascular
   depletion. Foley in place. Urine lytes: BUN 506, Cr 94, Na < 10, FeNa
   about 0.2% implies likely prerenal etiology.
   - Continue gentle fluid boluses and monitor UOP; trend creatinine and
   monitor UOP
   - Renally dose medications; avoid nephrotoxins
   - Hold ACE-I and diuretics
   .
   # Hepatitis. s/p cholecystectomy. Elevated LFTs likely in setting of
   shock liver.
   - Trend LFTs; manage hypotension (see above)
   - NPO for now
   - Hepatitis viral panel if persistent elevation
   # Abdominal pain/colitis on CT. Surgery consulted, recommend continue
   resuscitation, enema, trend labs/lactate, empiric abx. Pt is s/p
   cholecystectomy.
   - Appreciate surgery recs, will follow with serial exams
   - Gentle enema given impaction, colace / senna
   - Trend lactate
   - Empiric IV abx for now as above
   .
   # GIB. Guaiac positive stools:
   - Follow Hct; give PPI
   - Repeat stool guaiac when disimpacted
   .
   # CHF:  Hold lasix while hypotensive; hold Metoprolol, ACE-I,
   spironolactone while hypotensive
   # Obstructive lung disease/allergic rhinitis: Change albuterol to
   xopenex, cromolyn spray, fluticasone inhaler;  hold benadryl
   # Anxiety: Continue fluoxetine; hold trazodone for now
   .
   # FEN: IVF as above, replete electrolytes, can start heart healthy
   diet, Folate. PPI.
   # Prophylaxis: pneumoboots
   # Access: 2 peripherals
   # Communication: Patient
   # Code:  DNR DNI but consider less aggressive interventions such as
   cardiovert/defib if short-term return to baseline status (see OMR note
   [**5-12**] by PCP [**Doctor Last Name **] for full discussion)
   Name of health care proxy: [**Name (NI) 457**] [**Last Name (NamePattern1) 14303**]
   Relationship: Sister
   Phone number: [**Telephone/Fax (1) 14304**]
   # Disposition: ICU pending clinical improvement

2106-05-14 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Cards F/U: follow up final recs; prelim recs include continue abx,
   maintain euvolemia, monitor Hct, consider imdur/hydral once GI issues
   stable, continue ASA but avoid other anticoagulants, cath if pt
   agreeable and c/w goals of care (though cardiac enzymes likely [**3-16**]
   demand ischemia); arrhythmias on admission likely AVNRT -> VT, treat
   with nodal agents and amio.
   - PCP agrees that medical treatment most c/w goals of care rather than
   ICD; suggests starting benzo; consider cxr and if enlarging effusion or
   evidence fluid
   overload diuresing a bit; restart flovent and consider PO steroids if
   continues to
   have respiratory difficulties; If transferred to floor would appreciate
   consultation and
   comanagement both from general/chf cardiology and pulmonary; may
   benefit from SW visit at home
   - No o/n events, rested overnight on trazadone
   - cardiac enzymes, LFT trending down
   - urine culture <10K (non-speciated)
   - TTE: The left atrium is moderately dilated. Left ventricular wall
   thicknesses are normal. The left ventricular cavity is moderately
   dilated. There is moderate to severe global left ventricular
   hypokinesis (LVEF = 30 %) with apical akinesis. [Intrinsic left
   ventricular systolic function is likely more depressed given the
   severity of valvular regurgitation.] There is no ventricular septal
   defect. The right ventricular cavity is dilated with borderline normal
   free wall function. The aortic valve leaflets (3) are mildly thickened
   but aortic stenosis is not present. No aortic regurgitation is seen. A
   bioprosthetic mitral valve prosthesis is present. The transmitral
   gradient is normal for this prosthesis. Moderate to severe (3+) mitral
   regurgitation is seen. [Due to acoustic shadowing, the severity of
   mitral regurgitation may be significantly UNDERestimated.] The
   tricuspid valve leaflets are mildly thickened. There is mild pulmonary
   artery systolic hypertension. There is no pericardial
   effusion...Compared with the findings of the prior study (images
   reviewed) of [**2105-6-12**], the mitral regurgitation may be increased (may
   have been underestimated due to shadowing ), and the left ventricular
   ejection fraction is further reduced.
   Allergies:
   Penicillins
   Unknown;
   Nsaids
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching.;
   Verapamil
   Drowsiness/Fati
   Neurontin (Oral) (Gabapentin)
   ? peripheral ed
   Ultram (Oral) (Tramadol Hcl)
   Nausea/Vomiting
   Mysoline (Oral) (Primidone)
   falls;
   [**Doctor First Name **] (Oral) (Fexofenadine Hcl)
   Confusion/Delir
   Codeine
   Unknown;
   Darvon (Oral) (Propoxyphene Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-5-13**] 01:30 AM
   Metronidazole - [**2106-5-13**] 10:00 PM
   Ceftriaxone - [**2106-5-14**] 12:05 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2106-5-13**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-14**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.3
   HR: 57 (55 - 92) bpm
   BP: 102/50(62) {88/39(53) - 127/95(99)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,543 mL
                                                                     50 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                  1,033 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    285 mL
   Urine:
                                                                  1,630 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -87 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: warm extremities
   Skin:  Not assessed
   Ab: nontender, BS+, nondistended
   Neurologic: Alert/oriented
   Pulm: decreased BS at right base, crackles on left
   Labs / Radiology
   131 K/uL
   8.5 g/dL
   121 mg/dL
   1.5 mg/dL
   19 mEq/L
   3.8 mEq/L
   38 mg/dL
   113 mEq/L
   144 mEq/L
   27.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2106-5-12**]  05:59 PM
                             [**2106-5-12**]  08:00 PM
                             [**2106-5-13**]  12:45 AM
                             [**2106-5-13**]  05:43 AM
                             [**2106-5-13**]  03:03 PM
                             [**2106-5-14**]  02:53 AM
   WBC
   8.7
   7.2
   7.1
   6.6
   Hct
   29.3
   27.6
   27.6
   27.2
   Plt
   145
   147
   135
   131
   Cr
   2.7
   2.2
   1.8
   1.5
   TropT
   0.86
   1.16
   1.26
   1.00
   0.78
   Glucose
   164
   167
   121
   Other labs: PT / PTT / INR:28.6/33.9/2.8, CK / CKMB /
   Troponin-T:225/17/0.78, ALT / AST:1155/616, Alk Phos / T Bili:74/0.5,
   Amylase / Lipase:/46, Lactic Acid:1.9 mmol/L, LDH:1326 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Urine cx NGTD / <10,000 col/ml
   Assessment and Plan
   81 yo female with history of CHF (EF 30%), Afib on coumadin, s/p CABG
   presents with dyspnea and CP, found to be hypotensive. Cardioverted for
   ?aflutter, developed v-tach, defibrillated, returned to NSR. CTAb
   showed equivocal colitis. Admitted to MICU for hypotension.
   .
   # Shock. Likely cardiogenic in setting of tachyarrhythmia but
   complicated by likely dehydration in setting of anorexia and nausea,
   together with recent rapid ventricular rates, and baseline impaired
   cardiac function (given mild pulmonary vascular congestion on CXR,
   chronic CHF). Baseline bp appears low (syst in 80s at clinic).
   Differential also includes sepsis, especially in setting of mild
   leukocytosis and colitis seen on CT, though afebrile and WBC to
   baseline with fluids.
   - Cardiogenic (baseline CHF with low EF, together with superimposed
   arrhythmia; however CXR not concerning for congestion)
        - check TTE
   - Hypovolemic source: dehydration (pt appears generally volume
   depleted)
        - fluid boluses to maintain UOP and MAP goal of >55 then to
   maintenance fluids when 50 cc/hr UOP achieved
   - Vasodilatory source: colitis (though likely ischemic colitis rather
   than infectious)
        - D/c vanco/flagyl/ceftriaxone; follow exam
        - appreciate surgery recs
        - trend lactate
        - check C. Diff given recent history of diarrhea though now with
   constipation (no stool yet)
        - follow blood, urine cultures
   .
   # NSTEMI. Elevated troponins, CK-MB, anterior TWI on EKG. In setting of
   acute illness, tachycardia; likely demand vs ACS
   - Cycle enzymes
   - Appreciate cards consult
   - Continue ASA 81mg PO; discontinue atorvastatin while LFTs abnormal
   - Repeat ECG
   - Consider anticoagulation if continued enzyme rise
   - Morphine for pain/dypsnea
   .
   # Tachy-arrhythmia. Cards c/s: pt with likely AVNRT on admission,
   converted to VT, then back to NSR.
   - monitor on telemetry
   - Cards F/U: follow up final recs; prelim recs include continue abx,
   maintain euvolemia, monitor Hct, consider imdur/hydral once GI issues
   stable, continue ASA but avoid other anticoagulants, cath if pt
   agreeable and c/w goals of care (though cardiac enzymes likely [**3-16**]
   demand ischemia); arrhythmias on admission likely AVNRT -> VT, treat
   with nodal agents + amio
   - Continue amiodarone gtt, move to PO amiodarone if long term control
   needed
   - Maintain K > 4 (watch renal function though), Mg > 2
   - hold coumadin for now
   .
   # Subacute renal failure. Creatinine 3.2, baseline 1.1 but was elevated
   [**4-29**] to 3.3 (pt refused to seek medical attention at time). Likely
   prerenal in setting of dehydration/chronic CHF with intravascular
   depletion. Foley in place. Urine lytes: BUN 506, Cr 94, Na < 10, FeNa
   about 0.2% implies likely prerenal etiology.
   - Continue gentle fluid boluses and monitor UOP; trend creatinine and
   monitor UOP
   - Renally dose medications; avoid nephrotoxins
   - Hold ACE-I and diuretics
   .
   # Hepatitis. s/p cholecystectomy. Elevated LFTs likely in setting of
   shock liver. Now trending down.
   - Trend LFTs; manage hypotension (see above)
   # Abdominal pain/colitis on CT. Abdominal pain resolving; colitis
   likely ischemic. Surgery consulted, recommend continue resuscitation,
   enema, trend labs/lactate, empiric abx. Pt is s/p cholecystectomy.
   - Appreciate surgery recs, will follow with serial exams
   - Gentle enema given impaction, colace / senna
   - Trend lactate
   - D/c abx for now as above
   .
   # GIB. Guaiac positive stools:
   - Follow Hct; give PPI
   - Repeat stool guaiac when disimpacted
   .
   # CHF:  Hold lasix while hypotensive; hold Metoprolol, ACE-I,
   spironolactone while hypotensive
   - CXR given decreased BS today, crackles, fluid +
   - Lasix 10mg IV x 1 and watch UOP
   # Obstructive lung disease/allergic rhinitis:
   - Change albuterol to xopenex, cromolyn spray, fluticasone inhaler;
   hold Benadryl
   - Restart flovent; consider steroids if continued respiratory
   difficulty
   # Anxiety: Continue fluoxetine; hold trazodone for now; start benzo per
   pcp
   .
   # FEN: IVF as above, replete electrolytes, can start heart healthy
   diet, Folate. PPI.
   # Prophylaxis: pneumoboots
   # Access: 2 peripherals
   # Communication: Patient
   # Code:  DNR DNI but consider less aggressive interventions such as
   cardiovert/defib if short-term return to baseline status (see OMR note
   [**5-12**] by PCP [**Doctor Last Name **] for full discussion)
   Name of health care proxy: [**Name (NI) 457**] [**Last Name (NamePattern1) 14303**]
   Relationship: Sister
   Phone number: [**Telephone/Fax (1) 14304**]
   # Disposition: ICU pending clinical improvement; may benefit from SW
   visits at home